US07018988B2
(2S,4EZ)-1-[(2′,6′-dimethyl[1,1′-biphenyl]-4-yl)carbonyl]-N-[2-(4-hydroxyphenyl)ethyl]-4-(methoxyimino)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 2′,6′-dimethyl[1,1′-biphenyl]-4-carboxylic acid, and 4-(2-aminoethyl)phenol, the title compound was obtained in 87% purity by HPLC. MS(ESI+): m/z=486.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 2′,6′-dimethyl[1,1′-biphenyl]-4-carboxylic acid | CC1=C(C(=CC=C1)C)C1=CC=C(C=C1)C(=O)O | C15H14O2
reactant | 4-(2-aminoethyl)phenol | NCCC1=CC=C(C=C1)O | C8H11NO
product | (2S,4EZ)-1-[(2′,6′-dimethyl[1,1′-biphenyl]-4-yl)carbonyl]-N-[2-(4-hydroxyphenyl)ethyl]-4-(methoxyimino)-2-pyrrolidinecarboxamide | CC1=C(C(=CC=C1)C)C1=CC=C(C=C1)C(=O)N1[C@@H](CC(C1)=NOC)C(=O)NCCC1=CC=C(C=C1)O | C29H31N3O4
